US06670372B2
Under a nitrogen atmosphere, 2-phenoxyethylamine (1 7.6 ml, 0.13 mol) was added dropwise to a chilled (ice bath) solution of 4-chloro-3-nitroquinoline (21.5 g, 0.1 mol), triethylamine (21.5 ml, 0.16 mol) in dichloromethane (500 ml). The reaction was maintained at ambient temperature overnight. Water was added and the phases were separated. The organic phase was dried (MgSO4), filtered, and the bulk of the solvent was removed under vacuum. Hexane was added and the solution was chilled in a refrigerator. The resulting precipitate was recovered by vacuum filtration to provide 19.1 g of 3-nitro-N-(2-phenoxyethyl)quinolin-4-amine as a yellow solid.

reactant | 2-phenoxyethylamine | 0.13 mol, 7.6 ml | O(C1=CC=CC=C1)CCN | C8H11NO
reactant | 4-chloro-3-nitroquinoline | 0.1 mol, 21.5 g | ClC1=C(C=NC2=CC=CC=C12)[N+](=O)[O-] | C9H5ClN2O2
reactant | triethylamine | 0.16 mol, 21.5 ml | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | dichloromethane | 500 ml | ClCCl | CH2Cl2
product | 3-nitro-N-(2-phenoxyethyl)quinolin-4-amine | 19.1 g | [N+](=O)([O-])C=1C=NC2=CC=CC=C2C1NCCOC1=CC=CC=C1 | C17H15N3O3
